Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Aspirin
 
Attending: ___
 
Chief Complaint:
contractions
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G4P2 at 25w0d with di-di twins and cerclage in place,
here with contractions since yesterday evening. States they are
irregular, ___ in intensity, anywhere from ___ minutes apart. 
Denies vaginal bleeding or leaking fluid.  Endorses active fetal
movement x2.
 
Past Medical History:
PNC: 
- ___ ___ by ___, confirmed by first trimester ultrasound
- Labs ___ unknown
- Screening LR ERA
- FFS normal
- GLT not done
- U/S ___ A-502 grams; B-517 grams (bilateral pyelectasis; 
right
4.1 mm, left 4.6 mm); 2.9% discordance
- US ___ A-cephalic R; B-breech L, cervical length 22 mm
- Issues:
--physical exam indicated ___ cerclage placed ___ for
short cervix 1.5 cm
--on weekly Makena (every ___

OBhx: 
- G1: ___, painless cervical dilation around 28wks, VAVD for
fetal bradycardia at 35 weeks after preterm labor, 5#3oz, male
- G2: ___, painless cervical dilation around 28wks, SVD at 32
weeks after PPROM and preterm labor, 4#6oz, male
- G3: TAB
- G4: current
 
Gynhx:
- Hx abnormal pap, repeat normal
- +CT in ___, treated

PMH:
- G6PD deficiency
- denies other PMH

PSH:
- laparoscopic appendectomy (not ruptured)
- forehead surgery x 3 as child (s/p injury)
- TAB/D&C

 
Social History:
denies tobacco, alcohol, illicit drug use

 
Physical Exam:
 Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate x 2

 
Pertinent Results:
___ 04:15PM URINE  HOURS-RANDOM
___ 04:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-MOD*
___ 04:15PM URINE  RBC-1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-4
___ 04:15PM URINE  MUCOUS-RARE*
___ 04:10PM OTHER BODY FLUID  CT-NEG NG-NEG
___ 02:54PM   WBC-11.3* RBC-3.41* HGB-9.1* HCT-28.9* MCV-85 
MCH-26.7 MCHC-31.5* RDW-13.7 RDWSD-42.6
___ 02:54PM   PLT COUNT-194
 
Brief Hospital Course:
Ms. ___ was admitted to the Antepartum service for preterm 
contractions concerning for preterm labor. Her cervix was found 
to be 1 cm dilated, and cerclage was not found to be on tension 
over the course of 2 exams. She was given nifedipine for 
tocolysis until betamethasone complete, and was continued on her 
weekly Makena. She also developed a vaginal yeast infection, and 
was started on a 7 day course of vaginal monistat. She underwent 
fetal monitoring which was reassuring, and had a normal and 
reassuring ultrasound. She was monitored and had no evidence of 
continued preterm labor, and was discharged home in stable 
condition with outpatient follow-up scheduled.  
 
Medications on Admission:
- prenatal vitamin
- Makena (q ___
 
Discharge Medications:
1.  Miconazole Nitrate Vag Cream 2% 1 Appl VG QHS Duration: 7 
Days 
RX *miconazole nitrate [Miconazole-3] 200 mg 1 per vagina q HS 
Disp #*3 Suppository Refills:*0 
2.  Hydroxyprogesterone caproate 250 mg IM 1X/WEEK (TH)  
3.  Prenatal Gummy (PNV62-FA-om3-dha-epa-fish oil) 400 mcg-35 mg 
-25 mg-5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preterm contractions
25 weeks gestation
twin pregnancy
vaginal candidiasis
cerclage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please see instructions
 
Followup Instructions:
___